US05356866
2) Preparation of (2R,3S,3aS,9bR)-2-ethyl-3-(2-fluorobenzyloxy)-7-methyl-3,3a,5,9b-tetrahydro-2H-furo[3,2-c][2]benzopyran
0.62 g of methyl 5-deoxy-3-O-(2-fluorobenzyl)-5-C- methyl-2-O-(3-methylbenzyl)-D-xylofuranoside (a mixture of alpha and beta forms) obtained in 1) was dissolved in 10 ml of acetonitrile and 4.97 ml of tin tetrachloride (a 1.0 M dichloromethane solution) were added under cooling with ice. The resulting mixture was stirred at room temperature for 3 hours and then poured into a saturated aqueous sodium hydrogen carbonate solution with ice. The organic phase was thoroughly washed with water and then dried with anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain an oily product. The crude product was purified by silica gel chromatography (developing solvent: n-hexane:ethyl acetate=5:1) and 0.39 g of the target compound was obtained. (Yield: 68.4%)

reactant | methyl 5-deoxy-3-O-(2-fluorobenzyl)-5-C- methyl-2-O-(3-methylbenzyl)-D-xylofuranoside | 0.62 g | FC1=C(CO[C@@H]2[C@H](C(OC)O[C@@H]2CC)OCC2=CC(=CC=C2)C)C=CC=C1 | C22H27FO4
reactant | tin tetrachloride | 4.97 ml | [Sn](Cl)(Cl)(Cl)Cl
reactant | dichloromethane | 1.0 M | ClCCl | CH2Cl2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (2R,3S,3aS,9bR)-2-ethyl-3-(2-fluorobenzyloxy)-7-methyl-3,3a,5,9b-tetrahydro-2H-furo[3,2-c][2]benzopyran | 0.39 g, Yield: 68.4% | C(C)[C@@H]1[C@@H]([C@H]2OCC3=C([C@H]2O1)C=CC(=C3)C)OCC3=C(C=CC=C3)F | C21H23FO3
